US04650785
The above mentioned ester (13 g) was dissolved in chloroform (200 ml). This solution was added dropwise to the solution obtained by dissolving L-phenylalanine (16.5 g) and Na2CO3 (15.9 g) in water (150 ml) while stirring at room temperature. After that, the mixture was stirred for 7 hours and the insoluble matter thus produced was removed by filtration. The filtrate was acidified to pH 1.0 with 6N HCl. The precipitated crystals were filtered, washed with water, and re-crystallized from 90% aqueous methanol to obtain N-(4-phenylbutyroyl)-L-phenylalanine (11.2 g) having melting point: 178° C.

reactant | L-phenylalanine | 16.5 g | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | Na2CO3 | 15.9 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 150 ml | O | H2O
product | N-(4-phenylbutyroyl)-L-phenylalanine | 11.2 g | C1(=CC=CC=C1)CCCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C19H21NO3
